Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
unsteady gait
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ year old man with DM2 and history of
parotid gland tumor s/p resection, chemotherapy, and radiation,
who presents with gait isntability of listing towards the right
side for one week. Mr. ___ relays that he first noticed 
this
one week ago when he was walking, that he was bumping into 
things
on the right. He is not sure when the symptoms started, if they
were sudden or gradual, just that he noticed it when he was
walking. He overall felt more unsteady and has been using
the stair rails when walking up and down stairs and occasionally
reaches out to stabilize himself with a wall on the right side,
bumping his right elbow and the right side of his abdomen 
against
things, but he has not had any falls. He does not have headache,
dissiness, or visual change with this. About a week ago while he
had the first episode of walking symptoms, he notes that when he
tried to get out of his car (driver's side) and while swinging
his legs over to the left he felt his body propelled forward to
the left side, and he had to grab the car frame to prevent
himself from falling out of the car. The instabiity is only
noticeable when he stands or walks; he does not feel dizzy or
unstable when sitting or lying down. He does feel that he lists
to the right every single time he walks while the symptoms are
present. This lasted for about 2 days and then resolved on its
own. He felt normal afterwards. The same symptoms returned again
yesterday, but as he had his mother's ___ birthday party and 
his
daughter's prom, he elected to wait to come for evaluation in 
the
ED. He notes that his father thought he was drunk because he was
so unstable appearing when he walked yesterday. He feels that 
the
symptoms now are stable to slightly improved today as compared 
to
yesterday. 

He reports that he always has a degree of unsteadiness, a 
feeling
that he is "off kilter" if he stands up too quickly, which has
been present since having radiation therapy to his parotid gland
tumor in his ___. The unsteadiness he has that he needs to hold
things to stabilize himself is new, however. He reports that an
observer would not likely know when he is feeling "off kilter"
because he does not look unsteady or need to hold on to things
typically. He has never used a cane or walker. 

He also does not volunteer any information about weakness, but
when asked about his right side, he endorses that the right hand
is clumsier than normal; he is right-handed. He feels that
the lower part of the right side of his face is also slightly
numb, and that these have been present for the last week as 
well,
though he does not always notice it. He suffers from pain in the
right knee for which he has had an arthroscopy and takes Motrin,
but this has been going on for months. Denies distal numbness of
the feet. 

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies bowel or bladder incontinence or retention. 

On general review of systems, the patient denies fevers, chest
pain, palpitations, cough, nausea, vomiting, diarrhea,
constipation, abdominal pain, dysuria or rash.

 
Past Medical History:
AORTIC INSUFFICIENCY                                            
ASTHMA                                                          
CELLULITIS, FACE ___ TO SURG PAROTID/CHRONIC ___               
ERECTILE DYSFUNCTION                                            
FATIGUE                                                         
FATTY LIVER                                                     
HYPERLIPIDEMIA                                                  
HYPOKINETIC RIGHT VENTRICLE                                     
MITRAL REGURGITATION, PHYSIOLOGIC                               
PALPITATIONS                                                    
PAROTID GLAND NEOPLASM                                          
UMBILICAL HERNIA                                                
ADULT ONSET DIABETES MELLITUS   : diagnosed ___ years ago. Checks
___ in the morning, typically in the low to mid ___ .           


COLONIC POLYPS                                                  

 
Social History:
___
Family History:
No known family history of stroke
 
Physical Exam:
===============
ADMISSION EXAM:
===============
 General: NAD, resting in bed
 HEENT: NCAT, no oropharyngeal lesions, moist mucous membranes,
sclerae anicteric +facial asymmetry: R eyelid swelling, baseine,
and R parotid gland missing resulting in hollowed appearance of 
R
cheek
 Neck: Supple
 ___: warm and well perfused
 Pulmonary: breathing comfortably in room air
 Abdomen: obese
 Extremities: Warm, no edema
 Skin: No rashes or lesions

Neurologic Examination:
 - Mental Status - Awake, alert, oriented to person, place and
time. Attention to examiner easily maintained. Recalls a 
coherent
history. Speech is fluent with full sentences, intact 
repetition,
and intact verbal comprehension. Content of speech demonstrates
intact naming (high and low frequency) and no paraphasias. 
Normal
prosody. No evidence of hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger counting.
EOMI, +left beating nystagmus on L gaze. V2-V3 decreased
sensation to light touch on the right. Slightly decreased NLF on
the right (reported baseline). R sided deafness (baseline). No
dysarthria. Palate elevation symmetric. Trapezius strength ___
bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5
 R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch bilaterally.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   2
 R  2  2    2    2   2

- Coordination - No dysmetria with finger to nose testing
bilaterally, but has past-pointing on mirror testing on the 
right
only. He is clumsy with fast finger movements on the right. 

- Gait - Normal initiation. Narrow base. Normal stride length 
and
arm swing. Tends to walk towards his right. +Romberg; sways and
steps to the right. +Unterberger, turned to right with just a 
few
steps, too unstable to continue. Unable to tandem (steps out to
the right). 
===============
DISCHARGE EXAM:
===============
General: lying in bed, NAD
CV: warm and well-perfused
Resp: breathing comfortably in room air

Mental status: awake and alert, provides detailed history,
language is fluent without paraphasic errors

Cranial nerves: pupils equal and reactive, EOMI with gaze-evoked
horizontal nystagmus bilaterally, R ptosis, slightly less
activation on R side, facial sensation intact, tongue protrudes
midline, palate elevates symmetrically

Motor: ___ delt, biceps, triceps, finger ext, IP, quad, ham, TA
bilaterally

Sensory: intact light touch throughout

Coordination: FNF without dysmetria bilaterally, smooth HKS
bilaterally, no past pointing, symmetric rapid finger tapping

Gait: swayed to the right with Romberg, unable to tandem walk,
turned slightly to right when marching in place with eyes closed

 
Pertinent Results:
=========
Brain MRI
=========
1. Evidence of a punctate late acute to subacute infarct of the 
right medulla in the region of the gracile tubercle. 
2. Old small right parietal lacunar infarct. 

==============
CTA HEAD/NECK:
==============
1. No evidence for acute intracranial hemorrhage or vascular 
territorial 
infarction.  MRI would be more sensitive for the detection of 
subtle cerebral ischemia. 
2. Status post right parotidectomy with resection of the right 
sternocleidomastoid muscle and right submandibular gland. 
3. Approximately 60-70% stenosis at the right carotid 
bifurcation.  There is irregularity and thickening of the 
arterial wall in this region.  Although this could still be due 
to atherosclerotic disease, it is unclear if right-sided neck 
radiation also had additional effect. 
4. Nonvisualization of the right V3 segment with subsequent 
recanalization of the distal right V4 segment at the level of 
the ___.  These findings are age indeterminate, but may 
represent dissection in the appropriate clinical setting. 

=========
LAB WORK:
___
Brief Hospital Course:
Mr. ___ is a ___ year old male with type II diabetes 
mellitus and history of parotid gland tumor s/p resection who 
presented with several days of imbalance with listing over to 
the right side and right hand weakness and clumsiness. He was 
found on MRI to have a small right lateral medullary infarct in 
the distribution of the right ___. Vascular imaging with CTA 
showed complete right vertebral artery occlusion at the level of 
V2 extending distally with reconstitution intracranially, 
although it appears that the most distal V4 portion might be 
filled from the other side or the basilar artery. The right ___ 
territory might get its blood supply either from the retrograde 
V4 portion on the right or as a cross filling from the left 
___. Nevertheless, because of this, the right ___ territory 
might be hypoperfused. We are wondering whether not these hypo 
perfusion, which might be more severe when his blood pressure 
drops, could account for his unsteadiness and listing to the 
right, which get worse prior to admission. He does have a muscle 
collateral that seems to hook into the V2 portion of the right 
vertebral artery. This collateral might have contributed more 
blood supply in the past, but it has lost its significance when 
the V3 and V4 portions of the right vertebral artery closed off. 
It is most likely that closure of the V3 and part of the V4 
portion of the right vertebral artery are the sequela of 
radiation injury from his parotid tumor. We are seeing similar 
radiation effects in the right carotid artery. In addition, he 
has multiple vascular risk factors with diabetes (A1c 6.8), 
newly diagnosed hyperlipidemia (triglycerides 218, LDL 133), 
obesity, and lack of exercise, which are likely promoting small 
vessel disease.

He was counseled on healthy lifestyle changes and also started 
on aspirin 81mg for secondary stroke prevention, as well as 
atorvastatin 40mg. He should maintain a good hydration to 
prevent hypo-perfusion of the chronic right vertebral artery 
occlusion. Exercise might help to built up more collaterals.

Transitional issues:
[ ] Patient should continue on aspirin 81mg daily indefinitely, 
and maintained on statin therapy with repeat lipid panel in ___ 
months.
[ ] Continue to follow his blood pressure and start on therapy 
if he meets criteria for hypertension.

=
=
=
=
=
=
=
================================================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
=
=
=
=
=
=
=
================================================================ 
 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done 
2. DVT Prophylaxis administered? (x) Yes - SQ heparin
3. Antithrombotic therapy administered by end of hospital day 2? 
(X) Yes - aspirin
4. LDL documented? (X) Yes (LDL = 133)
5. Intensive statin therapy administered? atorvastatin 40mg  
6. Smoking cessation counseling given?(X) No [reason (X) 
non-smoker]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes 
8. Assessment for rehabilitation or rehab services considered? 
(X) Yes 
9. Discharged on statin therapy? (X) Yes 
10. Discharged on antithrombotic therapy? (X) Yes [Type: (X) 
Antiplatelet]
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter?(X) N/A  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. albuterol sulfate 90 mcg/actuation inhalation QID:PRN 
2. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
3. MetFORMIN (Glucophage) 1000 mg PO QAM 
4. MetFORMIN (Glucophage) 500 mg PO QPM 
5. Sildenafil 100 mg PO DAILY:PRN as needed 
6. Temazepam ___ mg PO QHS:PRN insomnia 
7. Vitamin D ___ UNIT PO DAILY 
8. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*40 
Tablet Refills:*3 
3.  albuterol sulfate 90 mcg/actuation inhalation QID:PRN  
4.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
5.  MetFORMIN (Glucophage) 1000 mg PO QAM  
6.  MetFORMIN (Glucophage) 500 mg PO QPM  
7.  Omeprazole 20 mg PO DAILY  
8.  Sildenafil 100 mg PO DAILY:PRN as needed  
9.  Temazepam ___ mg PO QHS:PRN insomnia  
10.  Vitamin D ___ UNIT PO DAILY  
11.Outpatient Physical Therapy
ICD: ___.9 stroke
PCP: ___ ___ group
P: ___ F: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right lateral medulla ___ infarct
Hyperlipidemia
Diabetes type II
Chronic right vertebral artery occlusion

 
Discharge Condition:
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear Mr. ___,  

You were hospitalized due to symptoms of imbalance and falling 
to the right. Your imaging showed a small area of stroke in the 
back of the brain in an area called the medulla. Your imaging 
did show that one of your blood vessels serving the back of your 
brain, the part that is important for balance. This may be the 
long-term effects of your radiation therapy for your parotid 
tumor. In addition, you have many risk factors for stroke, 
including diabetes, new high cholesterol, and lack of exercise. 
Because of all these factors, we are concerned that you may be 
at risk for strokes in the future.

Therefore it will be very important to lead a healthy lifestyle 
to reduce your risk of future strokes as much as possible. This 
includes losing weight to be in a normal weight range, 
exercising every day, and eating a healthy diet. In addition, 
you should continue to follow with your primary care doctor to 
closely manage your type II diabetes.  

We are changing your medications as follows: You were started on 
aspirin 81 mg daily, to reduce your risk of clotting, and 
atorvastatin 40 mg daily, to treat your high cholesterol. Please 
take your other medications as prescribed.  

Please follow up with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___